*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA350ELL681MK20S
*//   Date        : 2018/02/16 
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA350ELL681MK20S 1 2

C1 4 2 5.64e-04
C2 5 2 1.15e-04
C3 6 2 4.52e-05
C4 1 2 1.00e-15
R1 3 4 4.08e-02
R2 4 5 1.19e-01
R3 5 6 2.08e+00
L1 1 3 6.70e-09

.ENDS
*$
