*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ160ARA151MF61G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ160ARA151MF61G_20deg-C 1 2

C1 4 2 6.84e-05
C2 5 2 3.06e-05
C3 6 2 3.89e-05
R1 3 4 1.93e-02
R2 4 5 2.14e-01
R3 5 6 1.32e+00
L1 1 3 2.60e-09

.ENDS
*$
