* Part Type: Capacitor	
* Product Number:HHXJ250ARA101MF61G	
* Brief Explanation:
* 1)This is Conductive Polymer Hybrid Aluminum Electrolytic Capacitor.
* 2)This Capacitor has two pins.
* Device Maker: Nippon Chemi-Con Corporation
* Model Maker: Nippon Chemi-Con Corporation
* Creation date: 2021-06-04
* Model Ver: A
* Model Changes:
* A)First edition
* Model Level No.: -
* Nominal Variation of Model: N=3
* Temperature Variation of Model: T=20
* LCR_Value=100E-6
* Notes on Analysis: -

.SUBCKT HHXJ250ARA101MF61G_20deg-C 1 2

C1 4 2 4.57e-05
C2 5 2 2.06e-05
C3 6 2 2.88e-05
R1 3 4 1.70e-02
R2 4 5 8.51e-02
R3 5 6 1.70e+00
L1 1 3 2.60e-09

.ENDS
* hhxj250ara101mf61g_A001_pspice
