*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ250ARA151MF80G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ250ARA151MF80G_20deg-C 1 2


C1 4 2 7.49e-05
C2 5 2 3.74e-05
C3 6 2 3.73e-05
R1 3 4 1.48e-02
R2 4 5 1.56e-01
R3 5 6 2.05e+00
L1 1 3 2.90e-09

.ENDS
*$
