*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ250ARA181MF80G
*//   Date        : 2021/08/26
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ250ARA181MF80G_20deg-C 1 2

C1 4 2 7.95e-05
C2 5 2 3.57e-05
C3 6 2 3.41e-05
R1 3 4 1.34e-02
R2 4 5 8.00e-02
R3 5 6 1.00e+00
L1 1 3 2.70e-09

.ENDS
*$
