*$
*//-----------------------------------------------------------------------//
*//   Part      : HXJ_35V_100uF_F80_7
*//   Date      : 2019/12/03
*//   Model     : RC-ladder 7 Element Model
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ350ARA101MF80G_20deg-C 1 2

C1 4 2 3.942e-05
C2 5 2 2.899e-05
C3 6 2 1.087e-05
R1 3 4 1.300e-02
R2 4 5 7.000e-02
R3 5 6 1.300e+00
L1 1 3 2.900e-09

.ENDS
*$
