*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXJ350ARA121MF80G
*//   Date        : 2021/08/26
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXJ350ARA121MF80G_20deg-C 1 2

C1 4 2 5.72e-05
C2 5 2 2.34e-05
C3 6 2 2.29e-05
R1 3 4 1.30e-02
R2 4 5 6.52e-02
R3 5 6 1.60e+00
L1 1 3 2.70e-09

.ENDS
*$
