*$
*//-----------------------------------------------------------------------//
*//   Part No.    : KTJ101B106M55BFT00
*//   Date        : 2020/10/26
*//   Update 	  :
*//   Temperature : 25deg.C
*//   Model       : 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//


.SUBCKT KTJ101B106M55BFT00_25deg-C_DC0V 1 2

C1 4 2 9.064e-06
C2 6 2 0.146e-06
R1 1 3 3.700e-03
R2 3 5 4.830e-02
R3 4 6 6.790e+01
L1 3 4 2.045e-09
L2 5 4 1.022e-09

.ENDS
*$
