*$
*//-----------------------------------------------------------------------//
*//   Part No.    : LDFW027282YJUV0E
*//   Date        : 2021/11/30
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C
*//   DC-Current  : 0A
*//   Model       : RLC 20 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT LDFW027282YJUV0E n1 n2 n3 n4  

R11         N1 11  1.16m  
R21         N2 21  1.16m  
R31         31 N3  1.16m  
R41         41 N4  1.16m  
R51         21 11  1.00G  
R52         31 41  1.00G  
R14         41 13  11.25k  
R24         31 23  11.25k  
R13         13 12  7.84k  
R23         23 22  7.84k  
R12         11 12  6.82k  
R22         21 22  6.82k  
L13         13 41  0.56m  
L23         23 31  0.56m  
L12         12 41  2.55m  
L22         22 31  2.55m  
L11         11 41  8.92m  
L21         21 31  8.92m  
C11         11 41  3.96p   
C21         21 31  3.96p   
K11         L11 L21     0.99972
.ENDS

*$