*****************************************************************
* NXP PSMN2R2_25YLC
*
* Polarity N-Channel
* Ratings 25V/2.4E-03OHMS/25A
*
* Date Created Sat Apr  2 18:14:22 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R2_25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0005

RDS 7 4 25000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00121575322734704 TC=0.00827976128858141,-9.79936589571789e-06
RBD 9 4 0.000683366044966238 TC=0.00827976128858141,-9.79936589571789e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 1.3175682508113e-09
RG 1 2 0.876633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2467
+ -10	2453
+ -5	2367
+ -4	2345
+ -3	2305
+ -2	2009
+ -1	1468
+ -0.5	1253
+ -0.2	1100
+ -0.1	1046
+ 0	985.7
+ 0.1	855.5
+ 0.2	777.1
+ 0.5	623.4
+ 1	492.2
+ 2	372.6
+ 3	319.2
+ 4	288.4
+ 5	268.8
+ 6	253.8
+ 8	231.8
+ 10	217.1
+ 12	208.2
+ 20	190.5
+ 25	183.9


.MODEL MINT NMOS(Vto=2.01156541151876 Kp=3.4733e+02 Nfs=470000000000 Eta=1000
+ Level=1 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Vmax=600)

.MODEL DBD D(Bv=26.00 Ibv=2.50E-04 Rs=1E-6 Is=8.2199902684135e-13
+ N=1 M=0.55 VJ=0.5 Fc=0.5 Cjo=2.9202e-09 Tt=3.54e-08)

.ENDS



